US07429667B2
To a suspension of 85% powdered KOH in 20 ml DMF was added 1.74 g of cyanoacetamide at room temperature. The solution was stirred at room temperature for 15 minutes and then cooled in a water bath at room temperature. To this solution 4.7 g of 3-phenoxy-phenyl isothiocyanate was added dropwise. The solution exothermed slightly with the internal temperature rising to 28° C. during the addition. The solution was stirred at room temperature for 16 h, then diluted with 150 ml water and extracted with ethyl acetate to remove small amounts of starting material and by-products. The aqueous layer was isolated and acidified with 1N HCl to pH 1 with vigorous stirring. The resulting tan precipitate was filtered, washed with water, and dried for 16 hours in a vacuum oven to afford 4.66 g of 2-cyano-2-(3-phenoxy-phenylthiocarbamoyl)-acetamide.

reactant | KOH | [OH-].[K+]
reactant | cyanoacetamide | 1.74 g | C(#N)CC(=O)N | C3H4N2O
reactant | 3-phenoxy-phenyl isothiocyanate | 4.7 g | O(C1=CC=CC=C1)C=1C=C(C=CC1)N=C=S | C13H9NOS
reactant | HCl | 1N | Cl | ClH
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | water | 150 ml | O | H2O
product | 2-cyano-2-(3-phenoxy-phenylthiocarbamoyl)-acetamide | 4.66 g | C(#N)C(C(=O)N)C(NC1=CC(=CC=C1)OC1=CC=CC=C1)=S | C16H13N3O2S
